US06894200B2
Synthesis of 6-chloro-1,2-difluoronaphthalene
A cold solution of 2.3 g of NH4Cl in 10 ml of NH4OH was added to a stirred mixture of 2.00 g (8.45 mmol) of 6-chloro-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene, 5 ml of THF, and 0.84 g (13 mmol) of zinc that was cooled in an ice bath. The mixture was allowed to warm slowly to room temperature. After 22 h, 0.31 g (4.8 mmol) of additional zinc and 3 ml of NH4OH were added. After 24 h reaction time, the zinc was removed by filtration. The phases were separated, and the aqueous layer was extracted three times with hexanes. The combined organic phase was washed twice with brine, dried over MgSO4 and decolorized with activated carbon. The MgSO4 and carbon were filtered off, and the solvent was removed under vacuum. A colorless solid (1.6 g, 7.8 mmol, 92% yield) remained.

reactant | NH4Cl | 2.3 g | [NH4+].[Cl-]
reactant | 6-chloro-1,1,2,2-tetrafluoro-1,2-dihydronaphthalene | 8.45 mmol, 2.00 g | ClC=1C=C2C=CC(C(C2=CC1)(F)F)(F)F | C10H5ClF4
reactant | THF | 5 ml | C1CCOC1 | C4H8O
solvent | NH4OH | 10 ml | [NH4+].[OH-]
catalyst | zinc | 13 mmol, 0.84 g | [Zn] | Zn
catalyst | zinc | 4.8 mmol, 0.31 g | [Zn] | Zn
solvent | NH4OH | 3 ml | [NH4+].[OH-]
product | 6-chloro-1,2-difluoronaphthalene | 7.8 mmol, 1.6 g, 92% yield | ClC=1C=C2C=CC(=C(C2=CC1)F)F | C10H5ClF2
